US05665718
20.8 g (62.8 mmol) of ethyl (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate in 250 ml of ethanol and 75 ml (75 mmol) of 1N sodium hydroxide solution were heated to reflux for 30 min. The alcohol was evaporated on a rotary evaporator. The residue was dissolved in 250 ml of water and acidified with 1N hydrochloric acid. The crystals were filtered off under suction, washed with water and dried in a vacuum. There were obtained 18.2 g (96%) of (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid of m.p. 249°-250° (dec.).

reactant | ethyl (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 62.8 mmol, 20.8 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC)CC3)=O)C1 | C16H14ClN3O3
reactant | sodium hydroxide | 75 mmol, 1N, 75 ml | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 18.2 g, 96% | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CC3)=O)C1 | C14H10ClN3O3
